US06977263B2
(4-Bromo-2-fluoro-benzyl)-{5-[1-(4-{3-[N,N-bis-(tert-butoxycarbonyl)aminomethyl]-phenyl}-piperidin-1-yl)-methanoyl]-pyridin-3-yl}-carbamic acid dimethyl-ethyl ester (0.0806 g, 0.1010 mmol) was treated with 4 M HCl in 1,4-dioxane (2.0 mL, 8.0 mmol) and stirred at ambient temperature. After 25 minutes the reaction mixture was diluted with isopropyl alcohol (0.5 mL) and stirring was continued for an additional 2.5 hours. Dripping the reaction solution into ether (40 mL) with vigorous stirring afforded a white precipitate which was collected by filtration, washed with fresh ether (3.0 mL), and dried to afford 1-[4-(3-aminomethyl-phenyl)-piperidin-1-yl]-1-[5-(4-bromo-2-fluoro-benzylamino)-pyridin-3-yl]-methanone trihydrochloride (0.0563 g): 1H NMR (300 MHz, DMSO-d6) δ 8.39 (br s, 2H), 8.16 (d, J=2.7 Hz, 1H), 8.08 (s, 1H), 7.16-7.70 (m, 8H), 4.49-4.64 (br m, 1H), 4.46 (s, 2H), 4.05-4.30 (m, 1H), 4.00 (AB q, J=5.7 Hz, 2H), 3.01-3.25 (m, 1H), 2.77-2.95 (m, 2H), 1.75-1.92 (m, 1H), 1.45-1.75 (br m, 3H); 19F NMR (282 MHz, DMSO-d6) δ-114.1; MS (ESI) m/z 497 (M+H).

reactant | (4-Bromo-2-fluoro-benzyl)-{5-[1-(4-{3-[N,N-bis-(tert-butoxycarbonyl)aminomethyl]-phenyl}-piperidin-1-yl)-methanoyl]-pyridin-3-yl}-carbamic acid dimethyl-ethyl ester | 0.1010 mmol, 0.0806 g | CC(C)(C)OC(N(C=1C=NC=C(C1)C(=O)N1CCC(CC1)C1=CC(=CC=C1)CN(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)CC1=C(C=C(C=C1)Br)F)=O | C40H50BrFN4O7
reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 8.0 mmol, 2.0 mL | O1CCOCC1 | C4H8O2
reactant | ether | 40 mL | CCOCC | C4H10O
solvent | isopropyl alcohol | 0.5 mL | C(C)(C)O | C3H8O
product | 1-[4-(3-aminomethyl-phenyl)-piperidin-1-yl]-1-[5-(4-bromo-2-fluoro-benzylamino)-pyridin-3-yl]-methanone trihydrochloride | 0.0563 g | Cl.Cl.Cl.NCC=1C=C(C=CC1)C1CCN(CC1)C(=O)C=1C=NC=C(C1)NCC1=C(C=C(C=C1)Br)F | InChI=1S/C25H26BrFN4O.3ClH/c26-22-5-4-20(24(27)12-22)15-30-23-11-21(14-29-16-23)25(32)31-8-6-18(7-9-31)19-3-1-2-17(10-19)13-28;;;/h1-5,10-12,14,16,18,30H,6-9,13,15,28H2;3*1H
